US03985727
Dissolve 15 g. of methyl 3-acetamido-3-deoxy-β-D-galactopyranoside in DMF (300 ml.). To the solution add barium oxide (111 g.) and barium hydroxide (51 g.) and cool to 0°. With rapid stirring add benzyl bromide (150 ml.) dropwise. Allow the mixture to stir for a further 4 hours at 0° and then 16 hours at room temperature. Dilute the reaction mixture with 750 ml. of chloroform and filter. Concentrate the filtrate at 60° in vacuo to a yellow syrup, and extract this syrup with 500 ml of ethyl acetate. Filter the extract and concentrate in vacuo to a residue. Dissolve the residue in chloroform (200 ml.), wash the solution with 3 × 100 ml. of water then dry the chloroform phase over MgSO4. Remove the MgSO4 by filtration, then add hexane to the filtrate till crystals appear. After standing to complete the crystallization, filter off the product and dry to obtain methyl 3-acetamido-3-deoxy-2,4,6-tri-O-benzyl-β-D-galactopyranoside, 29.53 g. m.p. 147°-151°, [α d26 +52.5°.

reactant | methyl 3-acetamido-3-deoxy-β-D-galactopyranoside | C(C)(=O)N[C@@H]1[C@H]([C@H](OC)O[C@@H]([C@@H]1O)CO)O | C9H17NO6
reactant | barium oxide | 111 g | [O-2].[Ba+2]
reactant | barium hydroxide | 51 g | [OH-].[Ba+2].[OH-]
reactant | benzyl bromide | 150 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 300 ml | CN(C)C=O | C3H7NO
product | methyl 3-acetamido-3-deoxy-2,4,6-tri-O-benzyl-β-D-galactopyranoside | C(C)(=O)N[C@@H]1[C@H]([C@H](OC)O[C@@H]([C@@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCC1=CC=CC=C1 | C30H35NO6
